US06200460B1
a) N,N′-Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)-N,N′-bis-formyl-1,6-diaminohexane
A solution of 337.5 g (0.75 mol) of N,N′-bis-[2,2,6,6-tetra-methylpiperidin-4-yl]-N,N′-bisformyl-1,6-diaminohexane in 600 ml of methanol was treated with 0.15 g of MgSO4. 600 ml of a 30% strength H2O2 solution (5.87 mol) were added dropwise at 67° C. in the course of 6 h. The temperature was then increased to 81° C. and the mixture was kept at this temperature for a further 6 h, the pH of 7.8 being kept constant by metered addition of a 50% strength KOH solution. The pH was then adjusted to 9.0 by addition of KOH solution. After the mixture had been left at this pH for a further 2 h, the methanol was distilled off, the product being precipitated. It was washed with water and dried.

reactant | N,N′-bis-[2,2,6,6-tetra-methylpiperidin-4-yl]-N,N′-bisformyl-1,6-diaminohexane | 0.75 mol, 337.5 g | CC1(NC(CC(C1)N(CCCCCCN(C=O)C1CC(NC(C1)(C)C)(C)C)C=O)(C)C)C | C26H50N4O2
reactant | MgSO4 | 0.15 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | H2O2 | 5.87 mol | OO | H2O2
reactant | KOH | [OH-].[K+]
solvent | methanol | 600 ml | CO | CH4O
product | N,N′-Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)-N,N′-bis-formyl-1,6-diaminohexane | ON1C(CC(CC1(C)C)N(CCCCCCN(C=O)C1CC(N(C(C1)(C)C)O)(C)C)C=O)(C)C | C26H50N4O4
